US08754079B2
243.2 4-(2-Cyclobutoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
A mixture of 4-(4-fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (200 mg), potassium carbonate (166 mg) and bromocyclobutane (113 μl) in DMF (3 ml) was stirred at 60° C. over the weekend. The reaction mixture was diluted with EtOAc and washed with water and brine. The organic layer was concentrated and the residue was triturated with diethyl ether to give the desired compound.

reactant | 4-(4-fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 200 mg | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O)S1)C | C15H12FN3O3S
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromocyclobutane | 113 μl | BrC1CCC1 | C4H7Br
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-Cyclobutoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CCC2)S1)C | C19H18FN3O3S
